US08309742B2
(S)-3-Phenylhexane-2,5-dione was synthesized from (S)-2-phenylsuccinic acid with methyllithium in diethyl ether. The analytical data apart from the optical rotation and CD corresponds to the product formed by means of PigD catalysis (FIGS. 10 and 16).

reactant | (S)-2-phenylsuccinic acid | C1(=CC=CC=C1)[C@@H](C(=O)O)CC(=O)O | C10H10O4
reactant | methyllithium | C[Li]
reactant | diethyl ether | C(C)OCC | C4H10O
product | (S)-3-Phenylhexane-2,5-dione | C1(=CC=CC=C1)[C@@H](C(C)=O)CC(C)=O | C12H14O2
